### PR TITLE
[Merged by Bors] - chore(RingTheory/Ideal/Maximal): simplify proof

### PR DESCRIPTION
**Pull request by artie2000**
Refactor proof of `irreducible_of_isMaximal_of_eq_span_singleton_of_not_isIdempotentElem` for readability and robustness.

Follows #42332

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by artie2000** [comment]
@plp127; @jcommelin

File: Mathlib/RingTheory/Ideal/Maximal.lean [hunk 1]
```diff
@@ -233,28 +233,22 @@ theorem irreducible_of_isMaximal_of_eq_span_singleton_of_not_isIdempotentElem {a
...
-    obtain ⟨c, rfl⟩ := hu
-    obtain ⟨d, rfl⟩ := hv
-    refine idem (a * (c * d)) ?_ ?_
-    · apply le_antisymm <;> rw [span_singleton_le_span_singleton]
-      · exact (dvd_mul_right (a * (c * d)) a).trans (ha.trans (by ring)).symm.dvd
-      · apply dvd_mul_right
-    · rw [isIdempotentElem_iff]
-      refine Eq.trans ?_ (congrArg (· * (c * d)) ha.symm)
-      ring
+  refine ⟨by grind [span_singleton_eq_top, max.ne_top], fun u v ha ↦ ?_⟩
```
Comment (themathqueen) [inline Mathlib/RingTheory/Ideal/Maximal.lean]: I'm not so sure this is better than before. You're even still mentioning `span_singleton_eq_top` and `max.ne_top`. All that's changed here is that you've changed the words `apply` and `rw` to `grind`

File: Mathlib/RingTheory/Ideal/Maximal.lean [hunk 2]
```diff
@@ -233,28 +233,22 @@ theorem irreducible_of_isMaximal_of_eq_span_singleton_of_not_isIdempotentElem {a
...
+  by_contra! ⟨hu, hv⟩
+  have hu₂ : span {a} = span {u} :=
+    (max.eq_of_le (span_singleton_ne_top hu) (by simp [ha, Ideal.mem_span_singleton]))
+  have hv₂ : span {a} = span {v} :=
+    (max.eq_of_le (span_singleton_ne_top hv) (by simp [ha, Ideal.mem_span_singleton]))
+  obtain ⟨c, rfl⟩ := show a ∣ u by simp [← Ideal.mem_span_singleton, hu₂]
+  obtain ⟨d, rfl⟩ := show a ∣ v by simp [← Ideal.mem_span_singleton, hv₂]
```
Comment (themathqueen) [inline Mathlib/RingTheory/Ideal/Maximal.lean]:
```suggestion
  obtain ⟨c, rfl⟩ : a ∣ u := by simp [← Ideal.mem_span_singleton, hu₂]
  obtain ⟨d, rfl⟩ : a ∣ v := by simp [← Ideal.mem_span_singleton, hv₂]
```

File: Mathlib/RingTheory/Ideal/Maximal.lean (hunk 1 above)
Comment (artie2000) [reply Mathlib/RingTheory/Ideal/Maximal.lean]: what do you think now? I changed it and I think it is cleaner

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
